US07674795B2
In a 20 ml single-necked flask, introduce successively, under an argon atmosphere, 23 mg of N4,N4-dimethylbenzene-1,2,4-triamine, which can be obtained by catalytic hydrogenation of N4,N4-dimethyl-2-nitrobenzene-1,4-diamine in the presence of 10% palladium-on-charcoal under an initial hydrogen pressure of 5 bar at 20° C., 53 mg of (4-formyl-9H -fluoren-9(R,S)-yl)amide of 1H-pyrrolo[2,3-b]pyridine-4-carboxylic acid, prepared as in stage 6 of Example 234, and 24 mg of ferric chloride and 2 ml of dimethylformamide. After stirring for 3 h at 20° C., concentrate the solution under reduced pressure, and then take up the residue obtained in 4 ml of water. After draining of the insoluble material formed on a porous plate, washing with 2 ml of ethyl acetate and air-drying, in this way we obtain 41 mg of [4-(6-dimethylamino-1H-benzimidazol-2-yl)-9H-fluoren-9(R,S)-yl]amide of 1H-pyrrolo[2,3-b]-pyridine-4-carboxylic acid, in the form of a violet powder with the following characteristics:

reactant | N4,N4-dimethyl-2-nitrobenzene-1,4-diamine | CN(C1=CC(=C(C=C1)N)[N+](=O)[O-])C | C8H11N3O2
catalyst | palladium-on-charcoal | [Pd] | Pd
product | N4,N4-dimethylbenzene-1,2,4-triamine | 23 mg | CN(C=1C=C(C(=CC1)N)N)C | C8H13N3
